US06051568
(i) Boc--Aze--OH
Di-tert-butyl dicarbonate (13.75 g; 63 mmol) was added with stirring at room temperature to a mixture of 5.777 g (57 mmol) of L--Azetidine-2-carboxylic acid (H--Aze--OH) and 6.04 g (57 mmol) of sodium carbonate in 50 ml of water and 100 ml of THF. After 60 h the THF was removed in vacuo and the mixture was diluted with water and acidified with 2 M potassium hydrogen sulphate. Extraction with methylene chloride followed by drying (magnesium sulphate) and evaporation of the solvent gave a residue which was crystallized from methylene chloride:hexane to give 10.87 g (95%) of colourless crystals.

reactant | Di-tert-butyl dicarbonate | 63 mmol, 13.75 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | L--Azetidine-2-carboxylic acid | 57 mmol, 5.777 g | C1CN[C@@H]1C(=O)O | C4H7NO2
reactant | sodium carbonate | 57 mmol, 6.04 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 50 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | Boc--Aze--OH | 10.87 g, 95% | CC(C)(C)OC(=O)N1CC[C@H]1C(=O)O | C9H15NO4
